US04904680
(2S)-N-(α,α-Dimethylbenzyl)-2-benzoylamino-3-benzyloxypropionamide (Compound No. 13)
3.2 g of an oily substance [which had been obtained by the treatment of the (2S)-N-(α,α-dimethylbenzyl)-3-benzyloxy-2-aminopropionamide trifluoroacetate (prepared as described in Preparation 5) with triethylamine] were dissolved, together with 1.5 g of triethylamine, in 150 ml of methylene chloride. 1.5 g of benzoyl chloride was dropped onto this solution in an ice bath, and the reaction solution was stirred for 30 minutes, after which the methylene chloride layer was separated, washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off and recrystallization of the residue from a mixture of diethyl ether and hexane gave 4.1 g of the title compound melting at 88°-90° C.

reactant | (2S)-N-(α,α-dimethylbenzyl)-3-benzyloxy-2-aminopropionamide trifluoroacetate | FC(C(=O)O)(F)F.CC(C1=CC=CC=C1)(C)NC([C@H](COCC1=CC=CC=C1)N)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | (2S)-N-(α,α-Dimethylbenzyl)-2-benzoylamino-3-benzyloxypropionamide | 4.1 g | CC(C1=CC=CC=C1)(C)NC([C@H](COCC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O | C26H28N2O3
